US06762201B1
b) tert-Butyl 4-amino-3-[(2-hydroxy-N-methylacetylamino)methyl]benzoate
To a solution of t-butyl-4-nitro-3-[(2-hydroxy-N-methylacetylamino)methyl]benzoate (7.92 g, 23.15 mmole) in CH3OH (25 mL) and EtOAc (25 mL) in a Parr hydrogenation flask was added 10% Pd/C (0.20 g). The contents were shaken on a Parr shaker under H2 (50 psi) for 4 hours. The suspension was filtered through celite, concentrated under vacuum and washed with Et2O to afford the title compound as a light orange foam which was used without further purification: MS (ES) m/e 295 (M+H)+.

reactant | t-butyl-4-nitro-3-[(2-hydroxy-N-methylacetylamino)methyl]benzoate | 23.15 mmole, 7.92 g | C(C)(C)(C)OC(C1=CC(=C(C=C1)[N+](=O)[O-])CNC(C(O)C)=O)=O | C15H20N2O6
solvent | CH3OH | 25 mL | CO | CH4O
solvent | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 0.20 g | [Pd] | Pd
product | tert-Butyl 4-amino-3-[(2-hydroxy-N-methylacetylamino)methyl]benzoate | NC1=C(C=C(C(=O)OC(C)(C)C)C=C1)CNC(C(O)C)=O | C15H22N2O4
